US07335658B2
6-[4-(2,5-DIMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2,5-dimethylbenzoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (56% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.96, 7.16-7.11, 7.03-6.97, 4.12-3.67, 2.23, 2.22, 1.52, 0.82-0.69, 0.48-0.42, 0.11-0.05. MS (ES+) m/z 408.3 (M+1).

reactant | 2,5-dimethylbenzoic acid | CC1=C(C(=O)O)C=C(C=C1)C | C9H10O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,5-DIMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)C)C)=O | C23H29N5O2
